US04732912
A solution of methyl magnesium iodide (22.3 ml. of a 2.86 molar solution in tetrahydrofuran) was added dropwise to a stirred solution of the propargyl tetrahydropyranyl ether thus obtained (10.0 g.) in tetrahydrofuran (200 ml.) which was maintained under an atmosphere of argon, and the mixture was heated under reflux for 30 minutes. A solution of 3,4-dihydro-6-methoxy-2-p-methoxyphenylnaphthalen-1(2H)-one (7.2 g.; prepared by the method described in the Journal of Medicinal Chemistry, 1966, 9, 172) in tetrahydrofuran (100 ml.) was added to the boiling solution and the mixture was heated under reflux for 30 minutes, cooled and poured into ice-cold saturated aqueous ammonium chloride solution (300 ml.). The mixture was extracted three times with diethyl ether (150 ml. each time) and the combined extracts were washed with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 5:1 v/v mixture of toluene and ethyl acetate as eluant. There was thus obtained as an oil 6-methoxy-2-p-methoxyphenyl-1,2,3,4-tetrahydro-1-(3-tetrahydropyranyloxypropynyl)naphth-1-ol.

reactant | methyl magnesium iodide | C[Mg]I
reactant | propargyl tetrahydropyranyl ether | O1C(CCCC1)OCC#C | C8H12O2
reactant | 3,4-dihydro-6-methoxy-2-p-methoxyphenylnaphthalen-1(2H)-one | COC=1C=C2CCC(C(C2=CC1)=O)C1=CC=C(C=C1)OC | C18H18O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-methoxy-2-p-methoxyphenyl-1,2,3,4-tetrahydro-1-(3-tetrahydropyranyloxypropynyl)naphth-1-ol | COC=1C=C2CCC(C(C2=CC1)(O)C#CCOC1OCCCC1)C1=CC=C(C=C1)OC | C26H30O5
